US07435731B2
1-[6-(2,4-Difluoro-phenoxy)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino-propan-2-ol (200 mg, 0.447 mmol), 5-fluoro-2-ethoxyphenyl boronic acid (246 mg), K3PO4 (285 mg), and Tetrakis(triphenylphosphine) palladium(0) CH2Cl2 (73 mg) were added to 2 mL dioxane in a microwave vial. The vial was sealed and the reaction mixture was heated to 180° C. for 10 minutes. The reaction mixture was partitioned between water and ethyl acetate, and the organic layer was separated, dried over MgSO4, filtered, and evaporated under reduced pressure. The residue was filtered through silica gel using 10% MeOH in methylene chloride, then purified by preparative scale thin layer chromatography using 10% MeOH in methylene chloride, to give 62.9 mg of (R)-1-[6-(2,4-Difluoro-phenoxy)-3-(2-ethoxy-5-fluoro-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol. Mass Spec. M+H=460.

reactant | 6-(2,4-Difluoro-phenoxy)-3-iodo-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino-propan-2-ol | 0.447 mmol, 200 mg | FC1=C(OC2=NC(=C3C(=N2)NN=C3)NCC(CI)O)C=CC(=C1)F | C14H12F2IN5O2
reactant | 5-fluoro-2-ethoxyphenyl boronic acid | 246 mg | FC=1C=CC(=C(C1)B(O)O)OCC | C8H10BFO3
reactant | K3PO4 | 285 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (R)-1-[6-(2,4-Difluoro-phenoxy)-3-(2-ethoxy-5-fluoro-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ylamino]-propan-2-ol | 62.9 mg | FC1=C(OC2=NC(=C3C(=N2)NN=C3C3=C(C=CC(=C3)F)OCC)NC[C@@H](C)O)C=CC(=C1)F | C22H20F3N5O3
